US04889851
A mixture of 2-(4-chlorophenyl)-6-hydroxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (500 mg), ethyl bromoacetate (0.2 ml), and potassium carbonate (245 mg) in N,N-dimethyl formamide (1 ml) was stirred at 80° C. for 3 hours. The mixture was cooled and poured into ice-water. The separated solid was filtered and dissolved in a mixture of ethanol (15 ml) and tetrahydrofuran (15 ml). To the solution containing 2-(4-chlorophenyl)-6-ethoxycarbonylmethoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide was added aqueous 1N-sodium hydroxide solution (2.2 ml) in one portion at ambient temperature. The solution was stirred for one hour at ambient temperature and concentrated in vacuo. The residue was extracted with methylene chloride. The organic layer washed with brine, dried, and evaporated to give the crude product, which was crystallized from methanol to yield 2-(4-chlorophenyl)-6-carboxymethoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (213 mg).

reactant | 2-(4-chlorophenyl)-6-hydroxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 500 mg | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)O)(=O)=O | C14H11ClN2O4S
reactant | ethyl bromoacetate | 0.2 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 245 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethyl formamide | 1 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenyl)-6-carboxymethoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 213 mg | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OCC(=O)O)(=O)=O | C16H13ClN2O6S
